US07816401B2
(2) Synthesis of (2S,4E,6S,7S)-2,6-dimethyl-7-[(triethylsilyl)oxy]non-4-en-1-ol (P31)
Lithium (39.4 mg, 5.62 mmol) was added to a THF (25 ml) solution of di-tert-butyldiphenyl (1.87 g, 7.02 mmol) while ice cooling and the reaction solution was stirred at room temperature for three hours. The reaction solution turned dark green during stirring. This solution was added dropwise to THF (5 ml) solution of {[(1S,2S,3E,6S)-7-benzyloxy-1-ethyl-2,6-dimethylhept-3-en-1-yl]oxy}(triethyl)silane (500 mg, 1.28 mmol) slowly (at such a rate that green of the reaction solution was maintained) cooled to −78° C. under stirring. After the reaction solution was stirred at the same temperature for three hours, a saturated ammonium chloride aqueous solution was added thereto and the mixture was warmed to room temperature. After the reaction solution was diluted with ethyl acetate, it was washed with brine. After the organic layer was dried over anhydrous sodium sulfate and the drying agent was filtered off, the organic layer was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (Merck, commercial name Silica Gel 60, 230-400 mesh; hexane:ethyl acetate=15:1) to obtain the title compound (296 mg) as a colorless oil.

reactant | Lithium | 5.62 mmol, 39.4 mg | [Li] | Li
reactant | THF | 25 ml | C1CCOC1 | C4H8O
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | {[(1S,2S,3E,6S)-7-benzyloxy-1-ethyl-2,6-dimethylhept-3-en-1-yl]oxy}(triethyl)silane | 1.28 mmol, 500 mg | C(C1=CC=CC=C1)OC[C@H](C/C=C/[C@@H]([C@H](CC)O[Si](CC)(CC)CC)C)C | C24H42O2Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,4E,6S,7S)-2,6-dimethyl-7-[(triethylsilyl)oxy]non-4-en-1-ol | 296 mg | C[C@H](CO)C\C=C\[C@@H]([C@H](CC)O[Si](CC)(CC)CC)C | C17H36O2Si
